US07598289B2
2-Biphenyl-4-yl-2-pent-4-enyl-[1,3]dithiane (ABD-151)
1-Biphenylyl-hex-5-en-1-one (1.5 g) was dissolved in DCM (30 ml). Propanedithiol (1.5 g) and boron trifluoride dietherate (1 ml) were added and the mixture stirred for 24 h. 5% NaOH (50 ml) was added and the mixture separated. The organic phase was washed with water, dried and evaporated to give an oil. Column chromatography (petrol/ethyl acetate) gave the title compound as a thick oil. δC (CDCl3, 62.9 MHz): 23.2, 25.3, 27.7, 33.6, 44.6, 58.9, 115.0, 127.1, 127.1, 127.4, 128.8, 129.4, 138.1, 139.6, 140.5 and 141.0. δH (CDCl3, 250 MHz): 1.40 (2H, m), 2.00 (6H, m), 2.70 (4H, m), 4.92 (2H, m), 5.68 (1H, m), 7.34 (1H, m), 7.44 (2H, m), 7.62 (4H, m) and 7.96 (2H, d, J 8.2).

reactant | 1-Biphenylyl-hex-5-en-1-one | 1.5 g | C1(=C(C=CC=C1)C(CCCC=C)=O)C1=CC=CC=C1 | C18H18O
reactant | Propanedithiol | 1.5 g | C(CC)(S)S | C3H8S2
reactant | boron trifluoride | B(F)(F)F | BF3
reactant | NaOH | 50 ml | [OH-].[Na+]
solvent | DCM | 30 ml | C(Cl)Cl | CH2Cl2
product | 2-Biphenyl-4-yl-2-pent-4-enyl-[1,3]dithiane | C1(=CC=C(C=C1)C1(SCCCS1)CCCC=C)C1=CC=CC=C1 | C21H24S2
